US05958944
Thionyl chloride (1.55 ml) and dimethylformamide (2 drops) were added to a solution of 2-benzyloxy-4-benzyloxycarbonylaminomethylbenzoic acid (7.1 g) in dichloromethane (50 ml), and the mixture was refluxed under heating for 1.5 hours. After the reaction, the solvent was evaporated under reduced pressure to give 2-benzyloxy-4-benzyloxycarbonylaminomethylbenzoyl chloride as crystals. Then, the crystals were dissolved in acetonitrile (50 ml), and the solution was dropwise added to a solution of 4-aminopyridine (1.42 g) and diisopropylethylamine (5.27 ml) in acetonitrile (50 ml) under ice-cooling. The mixture was stirred at room temperature for 4 hours. After the reaction, water was added, and the mixture was extracted with chloroform. The extract was washed with water and dried. The solvent was evaporated under reduced pressure and the obtained crystals were recrystallized from ethyl acetate-hexane to give N-(4-pyridyl)-2-benzyloxy-4-benzyloxycarbonylaminomethylbenzamide as crystals.

reactant | Thionyl chloride | 1.55 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-benzyloxy-4-benzyloxycarbonylaminomethylbenzoic acid | 7.1 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)CNC(=O)OCC1=CC=CC=C1 | C23H21NO5
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-benzyloxy-4-benzyloxycarbonylaminomethylbenzoyl chloride | C(C1=CC=CC=C1)OC1=C(C(=O)Cl)C=CC(=C1)CNC(=O)OCC1=CC=CC=C1 | C23H20ClNO4
